US07855220B2
8-(2,2,2-Trifluoroacetamido)quinoline-5-sulfonyl chloride
Under N2 at 25° C., 2,2,2-trifluoro-N-(quinolin-8-yl)acetamide (5.0 g, 20.8 mmol) was added to chlorosulfonic acid (15 ml) and then heated at 80° C. for 19 h. The mixture was then poured into ice-water (200 ml), followed by addition of EtOAc (300 ml). The organic layer was passed through a short bed of silica gel followed by EtOAc (700 ml) and then evaporated and triturated with Et2O to give the product as a light tan solid (2.2 g, 31%). 1H NMR (400 MHz, CDCl3) δ 11.02 (s, 1H), 9.19 (dd, J=8.8, 1.4 Hz, 1H), 9.05 (dd, J=4.2, 1.4 Hz, 1H), 8.84 (d, J=8.5 Hz, 1H), 8.48 (d, J=8.5 Hz, 1H), 7.85 (dd, J=8.8, 4.2 Hz, 1H).

reactant | 2,2,2-trifluoro-N-(quinolin-8-yl)acetamide | 20.8 mmol, 5.0 g | FC(C(=O)NC=1C=CC=C2C=CC=NC12)(F)F | C11H7F3N2O
reactant | chlorosulfonic acid | 15 ml | ClS(=O)(=O)O | ClHO3S
solvent | EtOAc | 700 ml | CCOC(=O)C | C4H8O2
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
product | 8-(2,2,2-Trifluoroacetamido)quinoline-5-sulfonyl chloride | 2.2 g, 31% | FC(C(=O)NC1=CC=C(C=2C=CC=NC12)S(=O)(=O)Cl)(F)F | C11H6ClF3N2O3S
